US08981085B2
A mixture of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclobutanecarboxamide (188 mg, 0.602 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (362 mg, 1.81 mmol), and triethylamine (168 μL, 1.20 mmol) in n-BuOH (5 mL) was stirred at 160° C. in a sealed tube for 18 hours. The mixture was allowed to cool to room temperature, and was then diluted with EtOAc (100 mL) and washed with brine (2×20 mL). The organic layer was separated, dried (MgSO4), filtered, and concentrated in vacuo. The liquid residue was purified by C-18 reverse phase chromatography (Biotage 25M+) on Biotage SP4 unit eluting with a gradient of 12-85% CH3CN/water (25 CV) to provide (R)-tert-butyl 1-(5-bromo-3-(cyclobutanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (90 mg, 30% yield) as a solid. This material was dissolved in neat TFA (3 mL) and stirred at room temperature for 30 minutes. The mixture was then concentrated in vacuo, and the oily residue was dissolved in a few drops of CH2Cl2 and treated with 2M HCl in ether. The solid formed was crystallized from MeOH and CH3CN to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclobutanecarboxamide hydrochloride (65 mg, 79% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.81 (s, 1H), 9.19 (s, 1H), 8.29 (br s, 3H), 8.23 (s, 1H), 7.59 (s, 1H), 3.46-3.37 (m, 2H), 3.35-3.26 (m, 3H), 3.08-3.03 (m, 1H), 2.34-2.24 (m, 2H), 2.18-2.11 (m, 3H), 2.01-1.94 (m, 1H), 1.86-1.80 (m, 2H), 1.70-1.60 (m, 1H), 1.50-1.44 (m, 1H); LCMS (APCI+) m/z 392, 394 (M+H)+, Retention time=2.28 minutes (Method 2).

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)cyclobutanecarboxamide | 0.602 mmol, 188 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2CCC2)F | C12H11BrFN3O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.81 mmol, 362 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 1.20 mmol, 168 μL | C(C)N(CC)CC | C6H15N
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 1-(5-bromo-3-(cyclobutanecarboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 90 mg, 30% yield | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2CCC2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H30BrN5O3
